US06770656B2
(S)-1-Tridecanoyl-piperidine-2-carboxylic acid (6-amino-hexyl)-amide (See Scheme 1)
A solution of (S)-(6-{[1-(1-tridecanoyl-piperidin-2-yl)-methanoyl]-amino}-hexyl)-carbamic acid tert-butyl ester (3.9 g, 7.45 mmol) in DCM (40 mL) was treated with TFA (8 mL) at −20° C. for two days until disappearance of the starting material. The reaction mixture was allowed to warm up to rt and was washed with an aqueous saturated solution of K2CO3. Extraction, drying over MgSO4 and evaporation in vacuo gave a yellow oil. Purification via flash chromatography (SiO2, 5×13 cm2 column) using a mixture (90:10:2) of DCM:MeOH(5% aqueous solution of NH3) gave the title compound (1.35 g) as a pale yellow oil. The residue was taken in anhydrous DCM (25 mL) and treated with TFA (246 μL, 365 mg) at —10° C. Evaporation of the solvents gave the title compound (1.67 g, 3.11 mmol) as a yellow oil in a 42% yield.

reactant | (S)-(6-{[1-(1-tridecanoyl-piperidin-2-yl)-methanoyl]-amino}-hexyl)-carbamic acid tert-butyl ester | 7.45 mmol, 3.9 g | C(C)(C)(C)OC(NCCCCCCNC(=O)[C@H]1N(CCCC1)C(CCCCCCCCCCCC)=O)=O | C30H57N3O4
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-Tridecanoyl-piperidine-2-carboxylic acid (6-amino-hexyl)-amide | 1.35 g | NCCCCCCNC(=O)[C@H]1N(CCCC1)C(CCCCCCCCCCCC)=O | C25H49N3O2
